US07244790B2
Poly(trimethylene ether-tetramethylene terephthalate) was prepared as described for Example 1, with the exception that the number average molecular weight of the polytrimethylene ether glycol used was 2,390. The amounts of ingredients used were: dimethyl terephthalate, 12.52 kg; 1,4-butanediol, 14.90 kg; polytrimethylene ether glycol, 13.0 kg; tetraisopropyl titanate, 43.3 g; and ETHANOX, 80.8 g. The properties of the elastomer are reported in Table 1.

reactant | dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | ETHANOX | CCOP(=S)(OCC)SCSP(=S)(OCC)OCC | C9H22O4P2S4
catalyst | tetraisopropyl titanate | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | trimethylene ether tetramethylene terephthalate | C1CCO1.C1(C2=CC=C(C(=O)OCCCCO1)C=C2)=O | InChI=1S/C12H12O4.C3H6O/c13-11-9-3-5-10(6-4-9)12(14)16-8-2-1-7-15-11;1-2-4-3-1/h3-6H,1-2,7-8H2;1-3H2
